US08202865B2
Ethyl 1-[(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)amino]cyclopropanecarboxylate
The title compound was prepared following procedure described in Example 121 starting from 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride, prepared as in example 130, and 1-aminocyclopropane-1-carboxylic acid ethyl ester hydrochloride. The title compound was obtained as a white foam (120 mg, 98%). 1H NMR: (DMSO-d6, 300 MHz) δ 9.35 (m, 1H), 8.60 (m, 1H), 8.35 (m, 1H), 8.29 (m, 1H), 8.19 (m, 1H), 8.09 (m, 1H), 7.77 (t, J=7.8 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 7.39-7.26 (m, 3H), 7.15 (m, 1H), 4.23 (d, J=12.9 Hz, 1H), 4.17 (d, J=12.9 Hz, 1H), 4.08 (q, J=7.1 Hz, 2H), 3.25 (s, 3H), 2.04 (s, 3H), 1.47 (m, 2H), 1.21 (m, 1H), 1.15 (t, J=7.1 Hz, 3H). LC/MS (Method B): 512.2 (M+H)+ 510.3 (M−H)−. HPLC (Method A) Rt: 5.27 min (purity: 99%).

reactant | 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)Cl)C=CC1)C1=C(C=CC=C1)C | C24H19ClN2O3
reactant | 1-aminocyclopropane-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C1(CC1)N
product | Ethyl 1-[(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)amino]cyclopropanecarboxylate | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)NC2(CC2)C(=O)OCC)C=CC1)C1=C(C=CC=C1)C | C30H29N3O5
